US05158829
The procedure is analogous to Example 1, and 2-fluorotetracene-5,12-dione is reacted with 1-octadecanol, the 2-n-octadecyloxytetracene-5,12-dione obtained is converted into the corresponding diacetate by reductive acetylation, and the latter is reacted with sulfur int eh presence of p-toluenesulfonic acid to form 2-n-octadecyloxytetracene-5,6,11,12-tetrathiotetracene. The individual reaction products have the following characteristic data:

reactant | 2-fluorotetracene-5,12-dione | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
reactant | 1-octadecanol | C(CCCCCCCCCCCCCCCCC)O | C18H38O
product | 2-n-octadecyloxytetracene-5,12-dione | C(CCCCCCCCCCCCCCCCC)OC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C36H46O3
